US04150224
7-[[(1-Pyrryl)acetyl]amino]-3-[[(1-methyltetrazol-5-yl)thio]methyl]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid N-butyrylaminomethyl ester
To dimethylformamide is added the sodium salt of 7-[[(1-pyrryl)acetyl]amino]-3-[[(1-methyltetrazol-5-yl) thio]methyl] -8-oxo-5-thia-1-azabicyclo[4.2.0]-oct-2-ene-2-carboxylic acid, one equivalent, and an equivalent amount of N-butyrylaminomethyl chloride. The mixture is stirred at room temperature for about one hour after which it is carefully poured into ice water. The product precipitates and is recovered by filtration. The solid is dissolved in ethyl acetate and washed with aqueous sodium bicarbonate and then with water. The organic layer is dried over magnesium sulfate, filtered and evaporated to dryness in vacuo to give the title compound.

reactant | sodium | [Na] | Na
reactant | 7-[[(1-pyrryl)acetyl]amino]-3-[[(1-methyltetrazol-5-yl) thio]methyl] -8-oxo-5-thia-1-azabicyclo[4.2.0]-oct-2-ene-2-carboxylic acid | N1(C=CC=C1)CC(=O)NC1C2SCC(=C(N2C1=O)C(=O)O)CSC1=NN=NN1C | C16H17N7O4S2
reactant | N-butyrylaminomethyl chloride | C(CCC)(=O)NCCl | C5H10ClNO
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 7-[[(1-Pyrryl)acetyl]amino]-3-[[(1-methyltetrazol-5-yl)thio]methyl]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid N-butyrylaminomethyl ester | C(CCC)(=O)NCOC(=O)C=1N2C(C(C2SCC1CSC1=NN=NN1C)NC(CN1C=CC=C1)=O)=O | C21H26N8O5S2
